US07572784B2
8-Chloro-4-dimethylaminomethylene-1-(2,6-difluoro-phenyl)-3,4-dihydro-benzo[c]azepin-5-one (5aa)
8-Chloro-1-(2,6-difluoro-phenyl)-3,4-dihydro-benzo[c]azepin-5-one (4aa) (4.2 g, 15 mmol) was dissolved in toluene (100 mL) and N,N-dimethylformamide dimethyl acetal (19 mL) and heated at 80° C. for 2 h. The solution was evaporated in vacuo and the resulting residue was purified by column chromatography (silica gel, 0 to 75% EtOAc/hexanes) to afford 5aa (2.6 g, 78%) as a pale brown solid MS m/z=361 (M+H).

reactant | 8-Chloro-1-(2,6-difluoro-phenyl)-3,4-dihydro-benzo[c]azepin-5-one | 15 mmol, 4.2 g | ClC=1C=CC2=C(C(=NCCC2=O)C2=C(C=CC=C2F)F)C1 | C16H10ClF2NO
reactant | N,N-dimethylformamide dimethyl acetal | 19 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 8-Chloro-4-dimethylaminomethylene-1-(2,6-difluoro-phenyl)-3,4-dihydro-benzo[c]azepin-5-one | ClC=1C=CC2=C(C(=NCC(C2=O)=CN(C)C)C2=C(C=CC=C2F)F)C1 | C19H15ClF2N2O
